US08710046B2
Methyl 2-amino-5-chloro-3-methylbenzoate (6.6 g, 33.1 mmol) was dissolved in CHCl3 (90 mL) then cooled in an icebath while acetic anhydride (7.2 mL, 76.1 mmol) was added dropwise. After the addition was complete, the reaction mixture was stirred at room temperature for ca. 1 h, then KOAc (650 mg, 6.6 mmol) was added, followed by isoamyl nitrite (9.7 mL, 72.8 mmol). The reaction mixture was heated under reflux until the reaction was complete by TLC (overnight). While cooling to room temperature, precipitation was observed. The precipitate was collected and dried to afford methyl 5-chloro-1H-indazole-7-carboxylate as a yellow solid (4.83 g, 69%): 1H NMR (300 MHz, CDCl3) δ 11.25 (s, 1H), 8.10 (s, 1H), 8.05 (s, 3H), 7.97 (s, 1H), 4.09 (s, 1H); MS (ESI+) m/z 211 (M+H).

reactant | Methyl 2-amino-5-chloro-3-methylbenzoate | 33.1 mmol, 6.6 g | NC1=C(C(=O)OC)C=C(C=C1C)Cl | C9H10ClNO2
reactant | acetic anhydride | 76.1 mmol, 7.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | KOAc | 6.6 mmol, 650 mg | CC(=O)[O-].[K+]
reactant | isoamyl nitrite | 72.8 mmol, 9.7 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | CHCl3 | 90 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-chloro-1H-indazole-7-carboxylate | 4.83 g, 69% | ClC=1C=C2C=NNC2=C(C1)C(=O)OC | C9H7ClN2O2
